US08034256B2
Under an argon gas atmosphere, 19.41 g (87.4 mmol) of 9-phenanthreneboronic acid, 25.00 g (87.4 mmol) of 2,6-dibromonaphthalene, 2.02 g (1.75 mmol) of tetrakis(triphenylphosphine) palladium(0), 400 mL of dimethoxyethane and 132 mL of 2M sodium carbonate solution were mixed, and stirred for 24 hours at 78 degrees C. The reaction mixture experienced filtration, filtrate thereof was cleansed with water and the reaction mixture was dried with magnesium sulfate. Then, toluene was distilled away under reduced pressure. By refining residue thereof by silica-gel column chromatography and by recrystallizing the residue by acetic ether, 9.80 g of 6-bromo-2-(9-phenanthrenyl)naphthalene was obtained with an yield of 29%.

reactant | 9-phenanthreneboronic acid | 87.4 mmol, 19.41 g | C1=CC=CC=2C3=CC=CC=C3C(=CC12)B(O)O | C14H11BO2
reactant | 2,6-dibromonaphthalene | 87.4 mmol, 25.00 g | BrC1=CC2=CC=C(C=C2C=C1)Br | C10H6Br2
reactant | sodium carbonate | 2M, 132 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 1.75 mmol, 2.02 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dimethoxyethane | 400 mL | C(OC)COC | C4H10O2
product | 6-bromo-2-(9-phenanthrenyl)naphthalene | 9.80 g, yield of 29% | BrC=1C=C2C=CC(=CC2=CC1)C=1C2=CC=CC=C2C=2C=CC=CC2C1 | C24H15Br
